US09169254B2
(2-Hydroxyethyl)methylcarbamic acid 1,1-dimethylethyl ester (350 mg, 2.0 mmol) was dissolved in pyridine (2 ml). Mesyl chloride (0.229 ml, 2.1 mmol) was added at room temperature, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with methylene chloride, and the organic layer was washed with a saturated aqueous sodium bicarbonate solution, dried over MgSO4 and concentrated under reduced pressure to give methanesulfonic acid 2-(tert-butoxycarbonyl-methyl-amino)-ethyl ester. This was used in the next reaction without complete purification.

reactant | (2-Hydroxyethyl)methylcarbamic acid 1,1-dimethylethyl ester | 2.0 mmol, 350 mg | CC(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | Mesyl chloride | 2.1 mmol, 0.229 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-(tert-butoxycarbonyl-methyl-amino)-ethyl ester | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C)C | C9H19NO5S
